US06504046B1
40 ml of glacial acetic acid, 3.92 g (0.038 mole) of concentrated sulfuric acid and 0.36 g (0.02 mole) of water were added to 8.6 g (0.04 mole) of N-(1-cyano-1,2-dimethylpropyl)benzamide. The mixture was stirred at 80° C. for 2 hours to give rise to a reaction. After the completion of the reaction, the reaction mixture was cooled. Thereto were added 100 ml of water and 100 ml of ethyl acetate for layer separation. The organic layer was washed with a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, and concentrated to obtain 7.2 g (0.033 mole) of 2-phenyl-4-isopropyl-4-methyl-1,3-oxazol-5-one (yield=83%).

reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 0.038 mole, 3.92 g | S(O)(O)(=O)=O | H2O4S
reactant | water | 0.02 mole, 0.36 g | O | H2O
reactant | N-(1-cyano-1,2-dimethylpropyl)benzamide | 0.04 mole, 8.6 g | C(#N)C(C(C)C)(C)NC(C1=CC=CC=C1)=O | C13H16N2O
reactant | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-phenyl-4-isopropyl-4-methyl-1,3-oxazol-5-one | 0.033 mole, 7.2 g, yield=83% | C1(=CC=CC=C1)C=1OC(C(N1)(C)C(C)C)=O | C13H15NO2
